US05489593
1-[1,1-Dimethylethoxycarbonyl]-4-[5-(1-methylethylamino)-6-pyrimidinyl]piperazine
A solution of sodium cyanoborohydride (0.13 g) in methanol (4 ml) is added to a mixture of 1-[1,1-dimethylethoxycarbonyl]-4-[5-amino-6-pyrimidinyl]piperazine (PREPARATION 28, 0.44 g), acetone (3 ml), and glacial acetic acid (0.4 ml) in methanol (7 ml) at 0°. The mixture is stirred at 20°-25° for 72 h. The reaction is diluted with an aqueous sodium hydroxide solution (10%) and dichloromethane. The phases are separated and the organic phase is washed with water and the concentrated to a colorless liquid which is flash chromatographed on silica gel eluting with methanol/chloroform (1/99). The appropriate fractions are pooled and concentrated to give the title compound, NMR (CDCl3) 1.26, 1.49, 3.2, 3.44, 3.5-3.62, 7.89 and 8.33 δ.

reactant | sodium cyanoborohydride | 0.13 g | C(#N)[BH3-].[Na+]
reactant | 1-[1,1-dimethylethoxycarbonyl]-4-[5-amino-6-pyrimidinyl]piperazine | 0.44 g | CC(C)(OC(=O)N1CCN(CC1)C1=C(C=NC=N1)N)C | C13H21N5O2
reactant | acetone | 3 ml | CC(=O)C | C3H6O
reactant | acetic acid | 0.4 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 4 ml | CO | CH4O
solvent | methanol | 7 ml | CO | CH4O
solvent | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-[1,1-Dimethylethoxycarbonyl]-4-[5-(1-methylethylamino)-6-pyrimidinyl]piperazine | CC(C)(OC(=O)N1CCN(CC1)C1=C(C=NC=N1)NC(C)C)C | C16H27N5O2
